US04725680
Preparation of ethyl furfuryloxycarbonyl-glycinate
2.05 g (10 mmol) of α-chloroethyl furfuryl carbonate are added to a solution of 1.03 g (10 mmol) of ethyl glycinate in 6 ml of THF and 4 ml of 0.5M potassium carbonate solution maintained at between 5° and 10° C. The mixture is allowed to come to room temperature and is stirred for 18 hours. 50 ml of water saturated with NaCl are added and the mixture is extracted with 3×40 ml of ethyl ether. The organic phases are combined and dried over magnesium sulphate. After removal of the solvent and distillation, 1.5 g (66% yield) of the expected product is collected.

reactant | α-chloroethyl furfuryl carbonate | 10 mmol, 2.05 g | C(OC(C)Cl)(OCC1=CC=CO1)=O | C8H9ClO4
reactant | ethyl glycinate | 10 mmol, 1.03 g | NCC(=O)OCC | C4H9NO2
reactant | water | 50 ml | O | H2O
reactant | NaCl | [Na+].[Cl-]
solvent | THF | 6 ml | C1CCOC1 | C4H8O
solvent | potassium carbonate | 0.5M, 4 ml | C([O-])([O-])=O.[K+].[K+]
product | ethyl furfuryloxycarbonyl-glycinate | 1.5 g, 66% yield | C(C1=CC=CO1)OC(=O)NCC(=O)OCC | C10H13NO5
